US06586633B1
Production of 3′-(N-Ethylaminomethyl)acetophenone
The procedure described in Referential Example 4 was repeated, except that ethylamine hydrochloride (16.31 g; 200 mmol), sodium hydroxide (instead of triethylamine) (8 g; 200 mmol), and 3′-bromomethylacetophenone (4.26 g; 20 mmol) were used, to thereby yield 2.36 g of the target compound (yield: 66.7%).

reactant | ethylamine hydrochloride | 200 mmol, 16.31 g | Cl.C(C)N
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 3′-bromomethylacetophenone | 20 mmol, 4.26 g | BrCC=1C=C(C=CC1)C(C)=O | C9H9BrO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3′-(N-Ethylaminomethyl)acetophenone | yield 2.36 g, yield: 66.7% | C(C)NCC=1C=C(C=CC1)C(C)=O | C11H15NO
